US06001855
In the same manner as described in Example 4, from 2-guanidino-thiazole-5-carboxylic acid and ethyl (RS)-(piperidin-3-ylmethoxy)-acetate hydrochloride there is obtained ethyl (RS)-[1-(2-guanidino-thiazole-5-carbonyl)-piperidin-3-ylmethoxy]-acetate, m.p. 156° C., MS: 370 (M+H)+.

reactant | 2-guanidino-thiazole-5-carboxylic acid | N(C(=N)N)C=1SC(=CN1)C(=O)O | C5H6N4O2S
reactant | ethyl (RS)-(piperidin-3-ylmethoxy)-acetate hydrochloride | Cl.N1CC(CCC1)COCC(=O)OCC
product | ethyl (RS)-[1-(2-guanidino-thiazole-5-carbonyl)-piperidin-3-ylmethoxy]-acetate | N(C(=N)N)C=1SC(=CN1)C(=O)N1CC(CCC1)COCC(=O)OCC | C15H23N5O4S
